US06727264B1
N-(5-{1-[(3S)-3-(3-ACETYLPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}-2-METHYLPHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme AI using 1-(3-{[(1S)-3-chloro-1-phenylpropyl]oxy}phenyl)ethanone and 2-methyl-N-[2-methyl-5-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 512.9 (M+H)+.

reactant | 1-(3-{[(1S)-3-chloro-1-phenylpropyl]oxy}phenyl)ethanone | ClCC[C@@H](C1=CC=CC=C1)OC=1C=C(C=CC1)C(C)=O | C17H17ClO2
reactant | 2-methyl-N-[2-methyl-5-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=C(C=CC(=C1)C1CCNCC1)C)C | C16H24N2O
product | N-(5-{1-[(3S)-3-(3-ACETYLPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}-2-METHYLPHENYL)-2-METHYLPROPANAMIDE | C(C)(=O)C=1C=C(O[C@@H](CCN2CCC(CC2)C=2C=CC(=C(C2)NC(C(C)C)=O)C)C2=CC=CC=C2)C=CC1 | C33H40N2O3
